US07253286B2
N-(2-Fluoro-4-[(6-carbamoyl-7-methoxy-4-quinolyl)oxy]phenyl)-N′-cyclopropylurea
Cyclopropylamine (0.10 ml) was added to dimethylsulfoxide (0.8 ml), and then [4-(6-carbamoyl-7-methoxyquinolin-4-yloxy)-2-fluorophenyl]carbamic acid phenyl ester (80 mg) was dissolved therein and the mixture was stirred for 10 minutes. Water and ethyl acetate were added to the reaction solution and the precipitated crystals were filtered out to obtain the title compound (33 mg).

reactant | Cyclopropylamine | 0.10 ml | C1(CC1)N | C3H7N
reactant | dimethylsulfoxide | 0.8 ml | CS(=O)C | C2H6OS
reactant | [4-(6-carbamoyl-7-methoxyquinolin-4-yloxy)-2-fluorophenyl]carbamic acid phenyl ester | 80 mg | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(N)=O)OC)F)=O | C24H18FN3O5
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Fluoro-4-[(6-carbamoyl-7-methoxy-4-quinolyl)oxy]phenyl)-N′-cyclopropylurea | 33 mg | FC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C(N)=O)OC)NC(=O)NC1CC1 | C21H19FN4O4
